US07951838B2
Step 6: 3-(tert-butyldimethylsilyloxy)cyclobutanone
A mixture of 3-(tert-butyldimethylsilyloxy)cyclobutanol (2.59 g, 13 mmol), sodium bicarbonate (3 ml, 38 mmol), and Reactant 1 [?] (7 g, 15 mmol) in DCM (40 ml) was stirred at RT in 4 h, the solid was filtered; the filtrated was purified by ISCO (5% EtOAc/Hexanes) to give the title compound as a colorless oil.

reactant | 3-(tert-butyldimethylsilyloxy)cyclobutanol | 13 mmol, 2.59 g | [Si](C)(C)(C(C)(C)C)OC1CC(C1)O | C10H22O2Si
reactant | sodium bicarbonate | 38 mmol, 3 ml | C([O-])(O)=O.[Na+]
solvent | DCM | 40 ml | C(Cl)Cl | CH2Cl2
product | 3-(tert-butyldimethylsilyloxy)cyclobutanone | [Si](C)(C)(C(C)(C)C)OC1CC(C1)=O | C10H20O2Si
